data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_455315_2,[C:1](\[C:2]([N:4]([H:11])[H:12])([C:5](=[C:7]([H:16])[H:17])[H:13])[C:6]([H:10])([H:14])[H:15])(=[N:3]/[H:9])[H:8]>>[C:1]([C:2]([N:4]([H:11])[H:12])=[C:6]([H:14])[H:15])([N:3]([H:9])[H:10])([C:5](=[C:7]([H:16])[H:17])[H:13])[H:8],61.057632500006775
MR_581581_1,[C:1]([O:5]/[N:7]=[C:2](/[C:3]([N:4]([H:10])[H:11])=[O:8])[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([O:5]/[C:2]([O:6][H:9])=[N:7]/[C:3]([N:4]([H:10])[H:11])=[O:8])([H:12])([H:13])[H:14],37.43853250003596
MR_597407_0,[C:1]([N:3]([H:10])[H:11])(/[C:4](=[N:7]/[C:2]([H:13])([H:14])[H:15])[H:12])([O:5][O:6][H:8])[H:9]>>[C:1]1([N:3]([H:10])[H:11])([H:9])[C:4]([O:5][O:6][H:8])([H:12])[N:7]1[C:2]([H:13])([H:14])[H:15],46.83534500003134
MR_337108_1,[C:1]1([H:11])([H:12])[C:3]2([O:7][H:10])[C:4]1([C:6](=[O:9])[H:13])[N:8]=[C:5]2[C:2]([H:14])([H:15])[H:16]>>[C:1]1([H:11])([H:12])[C:3]([O:7][H:10])=[C:5]([C:2]([H:14])([H:15])[H:16])[N:8]=[C:4]1[C:6](=[O:9])[H:13],16.90673250004636
MR_163157_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:4]([N:3]=[O:7])([N:5]([H:11])[H:12])[O:8][H:9])([N:6]([H:13])[H:14])[H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([C:4]([N:5]([H:11])[H:12])=[O:8])[O:7][H:9])([N:6]([H:13])[H:14])[H:10],14.99473999998699
MR_617460_0,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[N:3]([C:5]([O:7][H:10])=[O:8])[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[C:5]1([O:7][H:10])[N:3]([O:6][H:9])[O:8]1)([H:11])([H:12])[H:13],60.832360000004826
MR_697857_1,[C:1]([C@@:5]1([C:3]([H:17])([H:18])[H:19])/[C:4](=[N:8]/[H:9])[N:7]1[C:2]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:4](/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:7]/[C:2]([H:14])([H:15])[H:16])=[N:8]/[H:9])([N:6]([H:10])[H:11])([H:12])[H:13],53.91981999997938
MR_341999_2,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:6]\[H:14])([N:4]([H:8])[H:11])([N:5]([H:12])[H:13])[H:7]>>[C:1]1([N:4]([H:8])[H:11])([H:7])[C:2]([N:3]([H:9])[H:10])([N:5]([H:12])[H:13])[N:6]1[H:14],62.9520550000035
MR_337256_2,[C@:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[C:5](/[C:3]([H:15])([H:16])[H:17])[H:11])[O:6][H:9])([N:7]=[O:8])[H:10]>>[C@:1]1([C:2]([H:12])([H:13])[H:14])([H:10])[C@:4]([O:6][H:9])([N:7]=[O:8])[C@:5]1([C:3]([H:15])([H:16])[H:17])[H:11],61.8752649999756
MR_381354_1,[C:1]([C:2]([N:5]([O:3][H:8])[O:6][H:7])([H:10])[H:11])(=[O:4])[H:9]>>[C:1]([C:2]([N:5]=[O:6])([H:10])[H:11])([O:3][H:8])([O:4][H:7])[H:9],31.79542499998007
MR_79668_2,[C:1]([N:2]([C:4](=[O:6])[H:12])[H:8])([N:3]([H:10])[H:11])([O:5][H:7])[H:9]>>[C:1]([N:2]([C:4]([O:6][H:7])([H:9])[H:12])[H:8])([N:3]([H:10])[H:11])=[O:5],60.477822500008216
MR_505433_1,[C:1](/[C:7](=[C:6](/[N:2]([C:3](/[C:4]([N:5]([H:11])[H:12])=[N:8]/[H:13])=[O:9])[H:10])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:7]([C:3](/[C:4]([N:5]([H:11])[H:12])=[N:8]/[H:13])=[O:9])(/[C:6](=[N:2]/[H:10])[H:14])[H:15])([H:16])([H:17])[H:18],59.98335250000821
MR_575170_1,[C:1](/[C:3](=[C:2]([N:4]([H:10])[H:11])\[C:7](=[C:6](/[O:8][H:9])[H:14])[H:15])[N:5]([H:12])[H:13])([H:16])([H:17])[H:18]>>[C:1]([C:3]1([N:5]([H:12])[H:13])[C:2]([N:4]([H:10])[H:11])=[C:7]([H:15])[C:6]1([O:8][H:9])[H:14])([H:16])([H:17])[H:18],43.61501499999363
MR_706705_0,[C:1](/[C:2](=[C:5]([C:3](=[N:8]/[H:11])/[H:13])\[H:15])[H:12])([C:4](=[C:6]([H:16])[H:17])[H:14])([O:7][H:9])[H:10]>>[C:1](=[C:2](\[C:5](/[C:3](=[N:8]/[H:11])[H:13])([C:4](=[C:6]([H:16])[H:17])[H:14])[H:15])[H:12])(\[O:7][H:9])[H:10],70.05221750001894
MR_689874_0,[C@@:1]([C:2](/[C:5]([C:4]([H:20])([H:21])[H:22])=[C:8](\[N:6]([H:11])[H:12])[H:16])([H:14])[H:15])([C:3]([H:17])([H:18])[H:19])([C:7](=[O:9])[H:13])[H:10]>>[C@@:1]1([C:3]([H:17])([H:18])[H:19])([H:10])[C:2]([H:14])([H:15])[C@:5]1([C:4]([H:20])([H:21])[H:22])[C@:8]([N:6]([H:11])[H:12])([C:7](=[O:9])[H:13])[H:16],71.96483750000539
MR_157745_1,[N:1]([C:3](=[O:6])[H:10])(/[C:4](=[C:5](\[N:2]([H:8])[H:9])[H:12])[H:11])[H:7]>>[N:1](=[C:4](\[C:5]([N:2]([H:8])[H:9])([C:3](=[O:6])[H:10])[H:12])[H:11])\[H:7],68.5418250000157
MR_707020_0,[C:1]([N:3]([H:10])[H:11])(/[C:5](=[N:7]\[N:2]([H:8])[H:9])[H:14])=[C:6](\[N:4]([H:12])[H:13])[H:15]>>[C:1]1([N:3]([H:10])[H:11])=[C:5]([H:14])[N:7]([N:2]([H:8])[H:9])[C:6]1([N:4]([H:12])[H:13])[H:15],40.07528750001328
MR_268100_1,[C:1]([N:3]([O:6][C:2]([H:13])([H:14])[H:15])[H:8])([C:4]([N:5]([H:9])[H:10])=[O:7])([H:11])[H:12]>>[C:1]([N:3]([C:4]([N:5]([H:9])[H:10])=[O:7])[H:8])([O:6][C:2]([H:13])([H:14])[H:15])([H:11])[H:12],67.10987000002845
MR_69725_0,[C:1]([O:2][O:3][H:5])([O:4][H:6])([H:7])[H:8]>>[C:1]([O:3][O:2][H:5])([O:4][H:6])([H:7])[H:8],70.92193249996328
MR_559070_0,[C:1]([C:4]([H:18])([H:19])[H:20])([N:6]([C:2]([H:12])([H:15])[H:16])[C:3]([H:13])([H:14])[H:17])([C:7]([C:5]([H:21])([H:22])[H:23])=[O:9])[N:8]([H:10])[H:11]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([N:8]([H:10])[H:11])[C:7]([C:5]([H:21])([H:22])[H:23])([N:6]([C:2]([H:12])([H:15])[H:16])[C:3]([H:13])([H:14])[H:17])[O:9]1,40.82703250000577
